2160-05-07 06:37:00 Physician Resident Progress Note
Chief Complaint: Cardiac arrest
   24 Hour Events:
   - Coded for refractory VT upon arrival to floor, resuscitated for ~35
   minutes with ROSC
   - Epinephrine weaned off
   - Norepinephrine currently being weaned
   - paO2 decreased to 69 on am gas this am, PEEP increased from 10->12
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Lidocaine - 2 mg/min
   Insulin - Regular - 6 units/hour
   Amiodarone - 1 mg/min
   Norepinephrine - 0.04 mcg/Kg/min
   Dopamine - 15 mcg/Kg/min
   Other ICU medications:
   Insulin - Regular - [**2160-5-6**] 05:20 PM
   Dextrose 50% - [**2160-5-6**] 05:21 PM
   Lorazepam (Ativan) - [**2160-5-6**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-7**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 63 (63 - 169) bpm
   BP: 111/60(89) {62/37(48) - 136/82(110)} mmHg
   RR: 21 (18 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
    PAP: (47 mmHg) / (22 mmHg)
   Mixed Venous O2% Sat: 69 - 69
   Total In:
                                                                  8,798 mL
                                                                  1,023 mL
   PO:
   TF:
   IVF:
                                                                  8,557 mL
                                                                    933 mL
   Blood products:
   Total out:
                                                                  1,945 mL
                                                                    920 mL
   Urine:
                                                                  1,915 mL
                                                                    595 mL
   NG:
                                                                     30 mL
                                                                    325 mL
   Stool:
   Drains:
   Balance:
                                                                  6,853 mL
                                                                    103 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 18
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Neuromusc Block
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   Compliance: 46.4 cmH2O/mL
   SpO2: 92%
   ABG: 7.47/35/69/21/1
   Ve: 15.1 L/min
   PaO2 / FiO2: 69
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Neck: C-collar in place
   Eyes / Conjunctiva: Pupils dilated 5mm, reactive 5
4 mm on right, 5
   4.5mm on left
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube, abrasions on
   face, bridge of nose
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: DP, PT
s dopplerable
   Respiratory / Chest: (Expansion: Paradoxical), (Breath Sounds:
   Rhonchorous, no crackles appreciated : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 1+ pitting edema bilaterally
   Skin:  Not assessed
   Neurologic: Unresponsive, No spontaneous movement, Sedated. No
   withdrawal to noxious stimuli
   Labs / Radiology
   157 K/uL
   12.7 g/dL
   98 mg/dL
   4.0 mg/dL
   21 mEq/L
   4.7 mEq/L
   84 mg/dL
   105 mEq/L
   137 mEq/L
   36.5 %
   13.6 K/uL
        [image002.jpg]
                             [**2160-5-6**]  03:45 PM
                             [**2160-5-6**]  03:51 PM
                             [**2160-5-6**]  05:13 PM
                             [**2160-5-6**]  06:53 PM
                             [**2160-5-6**]  10:14 PM
                             [**2160-5-7**]  12:38 AM
                             [**2160-5-7**]  02:33 AM
                             [**2160-5-7**]  03:44 AM
                             [**2160-5-7**]  06:00 AM
                             [**2160-5-7**]  06:04 AM
   WBC
   19.6
   16.8
   13.6
   Hct
   36.0
   39
   36.7
   36.5
   Plt
   185
   178
   157
   Cr
   3.9
   4.0
   TropT
   0.22
   TCO2
   19
   22
   24
   26
   23
   28
   26
   Glucose
   [**Telephone/Fax (3) 6046**]8
   Other labs: PT / PTT / INR:13.8/28.7/1.2, CK / CKMB /
   Troponin-T:978/24/0.22, Differential-Neuts:87.9 %, Lymph:8.9 %,
   Mono:2.7 %, Eos:0.2 %, Lactic Acid:1.5 mmol/L, Ca++:11.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   Mr. [**Name13 (STitle) 6047**] is a 62 yo man with CAD, CKD, DM who presents with
   cardiac arrest.
   .
   # Cardiac arrest. [**Month (only) 8**] be a primary arrhythmic event versus related to
   ischemia vs post-ischemic cardiomyopathy.  More likely however seems to
   be VT from metabolic derangement/hyperkalemia given the numerous
   morphologies of his VT from the EMS & the wide intervals of his sinus
   rhythm EKG.  Unfortunately he has very poor neurologic prognosis given
   - no cooling given his instability unless becomes febrile
   - neuro consult
   - q 4 hour neuro checks
   .
   # Refractory ventricular tachycardia: may be secondary to either
   hyperkalemia or ischemia.
   - q 4 hours K+ and ABG
   - continue lidocaine drip at 2
   - continue amiodarone drip at 1mg/min
   - echo in AM to eval for WMA/ischemia
   - ACLS & amio if recurrs
   .
   # Cardiogenic shock: may be related to VT versus ischemia
   - wean EPI, then levophed, then dopamine
   - IABP.  Re-evaluate need for baloon in AM.
   - Echo in AM
   .
   # Coronary artery disease: LAD and RCA occlusions appeared to be old
   - consider viability study/MIBI and revascularization if survives.
   - aspirin, statin
   .
   # Hyperkalemia: unclear if this is primary from ARF & ACE versus
   secondary to acidosis
   - monitor K q 4 hours.
   - insulin drip
   - s/p kayexalate
   .
   # Mental status: has signs of severe CNS injury with bleak prognosis
   (decerebrate posturing; babinski, dilated pupils, oculocephalics not
   intact); likely anoxic brain injury.  Given h/o fall on head and
   anticoagulation (heparin & aspirin) in the lab, CNS bleed should be
   ruled out.
   - CT head if stabilized in AM
   - EEG in AM
   - propofol for sedation, will try to avoid sedation to monitor neuro
   status.
   .
   # Tongue twitching: neurology c/s feels this is likely myoclonus.
   Seizure also on ddx
   - EEG in AM
   .
   # Acute renal failure: likely due to ACE & lasix.  [**Month (only) 8**] develop ATN
   post-code.  Still urinating
   - monitor I/O
   - appreciate renal recs
   - hold nephrotoxins
   .
   # Hypercholesterolemia: statin
   .
   # Diabetes: insulin gtt
   .
   # PPX: heparin SQ, PPI
   .
   # Code: full.  Family meeting planned in AM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   IABP line - [**2160-5-6**] 03:00 PM
   20 Gauge - [**2160-5-6**] 03:00 PM
   18 Gauge - [**2160-5-6**] 03:00 PM
   Cordis/Introducer - [**2160-5-6**] 03:40 PM
   PA Catheter - [**2160-5-6**] 03:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-05-10 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - had episode of continuous gagging, propofol restarted with good
   effect
   - started tube feeds
   -neurology feels that will need to wait 7 days for firm prognosis given
   that he has pupillary response and evolving neurological exam
   - neurology discussed MRI with family and they agreed to cancel exam
   - got overdosed with lasix (problem with formulation) and received
   100mg/hr x 3 hours
   - diuresed
   - temp 101 at 5am, sent sputum, blood and urine cultures
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Other medications: ASA 325, protonix, heparin sq, insulin sliding scale
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-10**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 92 (77 - 93) bpm
   BP: 99/55(68) {89/49(54) - 121/65(80)} mmHg
   RR: 26 (17 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.5 kg (admission): 100 kg
   Height: 67 Inch
             Total In:
                                                                  1,029 mL
                                                                    297 mL
   PO:
             TF:
                                                                     38 mL
                                                                    123 mL
   IVF:
                                                                    900 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  2,280 mL
                                                                    530 mL
   Urine:
                                                                  2,280 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,251 mL
                                                                   -233 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 660 (643 - 834) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 25
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 97%
   ABG: 7.43/34/123/23
   7.42/38/95/25/0
   Ve: 16.5 L/min
   PaO2 / FiO2: 190
   Physical Examination
   GEN: Intubated, comatose
   HEENT: pupils equal, both reactive 4
   NECK: C-collar in place
   CV: reg rate nl S1S2 no m/r/g
   PULM: clear anteriorly
   ABD: soft nondist normoactive bowel sounds
   EXT: warm, dry 1+ pitting edema to mid-calves, 2+PT bilat
   NEURO: no purposeful movements, toes upgoing bilat
   Labs / Radiology
   130 K/uL
   10.6 g/dL
   202 mg/dL
   7.4 mg/dL
   25 mEq/L
   3.6 mEq/L
   114 mg/dL
   100 mEq/L
   142 mEq/L
   31.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2160-5-8**]  04:38 PM
                             [**2160-5-8**]  04:43 PM
                             [**2160-5-8**]  06:18 PM
                             [**2160-5-9**]  02:14 AM
                             [**2160-5-9**]  04:03 AM
                             [**2160-5-9**]  05:23 AM
                             [**2160-5-9**]  06:10 AM
                             [**2160-5-9**]  11:35 AM
                             [**2160-5-9**]  04:45 PM
                             [**2160-5-10**]  05:15 AM
   WBC
   12.8
   11.3
   9.0
   Hct
   34.0
   33.4
   31.1
   Plt
   108
   113
   130
   Cr
   5.8
   6.5
   7.1
   7.4
   TCO2
   27
   23
   26
   27
   26
   25
   Glucose
   [**Telephone/Fax (3) 6108**]02
   Other labs: PT / PTT / INR:13.9/29.5/1.2
    ALT / AST:286/78, Alk Phos / T Bili:77/0.6, Amylase / Lipase:846/68,
   Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:6.6 mg/dL
   MICRO:
   Sputum cx [**5-8**]
 moderate growth pseudomonas
   BAL [**5-8**]
 sparse growth pseudomonas
   Blood cx [**5-9**]
 ngtd x2
   Urine cx [**5-9**] - ngtd
   ECHO:
   Conclusions
   Left ventricular wall thicknesses are normal. The left ventricular
   cavity size is top normal/borderline dilated. There is severe regional
   left ventricular systolic dysfunction with anterior, septal and apical
   akinesis (proximal LAD distribution). There is relative preservation of
   the inferolateral segments. No masses or thrombi are seen in the left
   ventricle. Right ventricular chamber size and free wall motion are
   normal. The aortic valve is not well seen. Trivial mitral regurgitation
   is seen. There is mild pulmonary artery systolic hypertension. There is
   no pericardial effusion.
   IMPRESSION: Severe regional left ventricular systolic dysfunction, c/w
   CAD. Mild pulmonary hypertension.
   Compared with the prior study (images reviewed) of [**2160-5-6**], right
   ventricular function has normalized. A "coronary" regional distribution
   of LV wall motion abnormalities is more apparent on today's study. Mild
   pulmonary hypertension is now seen.
   Assessment and Plan
   62 M w/ CAD, CKD, DM admitted with cardiac arrest, cardiogenic shock,
   hypoxic respiratory failure, and anoxic encephalopathy.
   .
   #Cardiac arrest
 pulseless VT/VF likely [**2-11**] hyperkalemia in the
   setting of ACEi therapy; no further episodes of pulseless arrhythmia
   since ROTC and amio gtt
   -cont amio gtt 0.5 mg/min
 convert to PO amio 400 [**Hospital1 **]
   .
   #CHF- acute on chronic. s/p cardiogenic shock.  Repeat TTE shows apical
   akinesis
   -titrate dopamine to MAP>65
   -start heparin gtt
   -start carvedilol 3.125 [**Hospital1 **] today
   .
   #Hypoxic respiratory failure
 O2 requirements improving with
   suctioning of secretions, hypoxic vasoconstriction in atelectactic
   lung, diuresis; multifactorial process [**2-11**] secretions/collapse, mild
   volume overload; PE remains on the ddx but improving with
   aforementioned measures
   -wean PEEP as tolerated hemodynamically
   -diuresis as below
   .
   # VAP
 Patient with copious secretions and pseudomonas on BAL. Spiked
   fever yesterday
   - [**Doctor Last Name **]/Zosyn/Cipro until sputum speciated
   -
   .
   #Anoxic encephalopathy
 neuro status stable
   -appreciate close neuro f/u
   -MRI head today
   .
   #ARF
 Cr rising, ATN [**2-11**] arrest UOP; non-oliguric; will likely require
   CVVH in next couple days if c/w family
s wishes
   -appreciate close renal f/u, will need CVVH but will discuss timing of
   this with family
   -will likely place HD line today.
   -cont diuresis with goal-1L
   -[**Hospital1 **] lytes
   -hold nephrotoxins
   .
   # Low grade temps/HAP
 Sputum cx and BAL growing psuedomonas
   - start zosyn
   - fup cultures & sensitivities
   .
   #Thrombocytopenia
 stable, unclear etiology but suspect marrow
   suppression; low pre-test prob for HIT
   - monitor daily
   - transfuse for plts<10K or s/sx bleeding
   .
   #Pancreatitis
 presumed [**2-11**] shock; lipase trending down; remains
   hypervolemic
   -cont mgmt volume status per above issues
   .
   #CAD: LAD and RCA occlusions appeared to be old
   -cont ASA
   -d/c
d statin given transaminitis, although more likely [**2-11**] resolving
   shock liver, given small short-term benefits
   .
   # Transaminitis: likely shock liver from cardiac arrest, LFT
s trending
   down.
   .
   #DM
   -HISS
   .
   # PPX: SQH, PPI
   .
   # Code: FULL
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2160-5-9**] 08:10 PM 20 mL/hour
   Glycemic Control:
   Lines:  will discuss access with renal.  Likely place HD line today,
   will d/c other femoral access.
   Cordis/Introducer - [**2160-5-6**] 03:40 PM
   Arterial Line - [**2160-5-7**] 09:00 AM
   20 Gauge - [**2160-5-9**] 01:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined.  I agree with Dr.
   [**First Name (STitle) **]
s H+P, A+P.    60 m inutes of patient critical care provided.  ICU
   level care due to intubation.  Dr. [**Last Name (STitle) 6109**] covering as of [**2160-5-11**].
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 421**], MD
   on:[**2160-5-10**] 11:06 ------

2160-05-11 06:43:00 Physician Resident Progress Note
Chief Complaint: Cardiac arrest, MSOF
   24 Hour Events:
   - VAP, BAL Cx grew pseudomonas/moraxella - on vanc, zosyn & [** 4075**]
   - HD line placed in left groin, right groin line removed.
   - heparin gtt started for LV and apical AK.
   - CVVH started at 7pm
   - total amiodarone dose calculated, pt will require 8 doses of 400mg to
   complete 7gram load
   - pt was posturing (tongue and hand movements) at MN, propofol
   restarted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2160-5-10**] 11:53 AM
   Vancomycin - [**2160-5-10**] 01:48 PM
   Piperacillin - [**2160-5-11**] 02:21 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Dopamine - 5 mcg/Kg/min
   KCl (CRRT) - 1 mEq./hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-11**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 73 (73 - 95) bpm
   BP: 97/50(62) {95/48(61) - 131/66(86)} mmHg
   RR: 15 (14 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.5 kg (admission): 100 kg
   Height: 67 Inch
             Total In:
                                                                  1,600 mL
                                                                  1,186 mL
   PO:
             TF:
                                                                    409 mL
                                                                    202 mL
   IVF:
                                                                  1,131 mL
                                                                    984 mL
   Blood products:
   Total out:
                                                                  1,586 mL
                                                                  1,653 mL
   Urine:
                                                                  1,385 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     14 mL
                                                                   -467 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 780 (400 - 780) mL
   PS : 8 cmH2O
   RR (Spontaneous): 15
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 22 cmH2O
   SpO2: 97%
   ABG: 7.40/39/109/23/0
   Ve: 11.6 L/min
   PaO2 / FiO2: 218
   Physical Examination
   GEN: Intubated, comatose
   HEENT: pupils equal with R>L reactive
   NECK: C-collar in place
   CV: reg rate nl S1S2 no m/r/g
   PULM: diminished throughout
   ABD: soft nondist normoactive bowel sounds
   EXT: warm, dry 1+ pitting edema to mid-calves, pulses dopplerable
   NEURO: no purposeful movements, toes upgoing bilat
   Labs / Radiology
   153 K/uL
   10.4 g/dL
   235 mg/dL
   5.7 mg/dL
   23 mEq/L
   4.0 mEq/L
   99 mg/dL
   104 mEq/L
   141 mEq/L
   30.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2160-5-9**]  06:10 AM
                             [**2160-5-9**]  11:35 AM
                             [**2160-5-9**]  04:45 PM
                             [**2160-5-10**]  05:15 AM
                             [**2160-5-10**]  06:32 AM
                             [**2160-5-10**]  06:16 PM
                             [**2160-5-10**]  06:41 PM
                             [**2160-5-11**]  12:50 AM
                             [**2160-5-11**]  04:41 AM
                             [**2160-5-11**]  04:51 AM
   WBC
   9.0
   11.1
   Hct
   31.1
   30.9
   Plt
   130
   153
   Cr
   7.1
   7.4
   7.4
   5.7
   TCO2
   26
   25
   23
   29
   25
   25
   Glucose
   149
   202
   235
   Other labs: PT / PTT / INR:15.4/62.5/1.4, CK / CKMB /
   Troponin-T:997/5/0.22, ALT / AST:203/56, Alk Phos / T Bili:103/0.5,
   Amylase / Lipase:846/68, Differential-Neuts:87.9 %, Lymph:8.9 %,
   Mono:2.7 %, Eos:0.2 %, Fibrinogen:925 mg/dL, Lactic Acid:1.4 mmol/L,
   LDH:453 IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   62 M w/ CAD, CKD, DM admitted with cardiac arrest, cardiogenic shock
   and MSOF.
   .
   #Cardiac arrest
 pulseless VT/VF likely [**2-11**] hyperkalemia in the
   setting of ACEi therapy; no further episodes of dysrhythmia since ROSC
   and initiation of amio therapy
   -cont amio 400 [**Hospital1 **] x 8 doses -> 200 mg [**Hospital1 **]
   .
   #Hypoxic respiratory failure
 stable; O2 requirements improved with
   suctioning of secretions, hypoxic vasoconstriction in atelectactic
   lung, diuresis; multifactorial process [**2-11**]
   infection->secretions/collapse, mild volume overload; PE remains on the
   ddx but improving with aforementioned measures, LENI
s neg, and already
   on systemic anticoagulation
   -wean PEEP as tolerated hemodynamically
   -volume [**Name6 (MD) 1959**] with RRT
   -[**Name (NI) **] for PNA
   .
   #Acute systolic CHF - TTE shows severe regional systolic dysfunction
   (EF 20%) in prox LAD distribution w/ anterior, septal and apical
   akinesis
   -wean dopamine but maintain MAP>65
   -prophylactic heparin gtt for akinesis
   -cont carvedilol 3.125 [**Hospital1 **]
   .
   # VAP
 pan-[**Last Name (un) 46**]. Pseudomonas, moraxella from sputum/BAL Cx
   -cont [**Last Name (LF) 4075**], [**First Name3 (LF) **] d/c vanc/zosyn
   .
   #Anoxic encephalopathy
 neuro status stable
   -appreciate close neuro f/u
   -monitor neuro exam, re-eval prognosis on hosp day 7
   .
   #ARF
 started citrate CVVH [**5-10**]
   -appreciate close renal f/u
   -monitor iCa, replete prn
   .
   #Pancreatitis
 presumed [**2-11**] shock; lipase trending down; remains
   hypervolemic
   -cont [**Month/Day (2) 1959**] volume status per above issues
   .
   #CAD: LAD and RCA occlusions appeared to be old
   -cont ASA
   -d/c
d statin given transaminitis( although more likely [**2-11**] resolving
   shock liver) given limited short-term benefits
   .
   # Transaminitis: [**2-11**] shock liver in the setting of cardiac arrest,
   LFT
s trending down
   .
   #DM
   -HISS
   .
   # PPX: SQH, PPI
   .
   # Code: FULL
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2160-5-11**] 05:04 AM 29.[**Telephone/Fax (3) 6123**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2160-5-7**] 09:00 AM
   20 Gauge - [**2160-5-10**] 12:49 PM
   Dialysis Catheter - [**2160-5-10**] 08:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Family meeting planned for [**5-13**]
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Attending Cardiology  [**2160-5-11**] 15:15 PM
   I have reviewed the above progress note on [**2160-5-11**] at 12:51 PM by
   Dr. [**Last Name (STitle) 165**] and have reviewed the history with the patient
s wife,
   daughter, and sisters, and was present during the physical examination
   noted above.  I concur with the assessment and treatment plan as
   outline above.   Mr. [**Known lastname 6050**] presented 5 days ago with a prolonged
   cardiac arrest due to pulseless ventricular tachycardia and ventricular
   fibrillation requiring multiple cardioversions.  He developed acute
   respiratory failure requiring intubation.  Cardiac catheterizations
   showed chronic occlusions not amenable to PCI.  He was also noted to
   have severely depressed left ventricular function resulting in acute
   systolic heart failure.  He has developed acute kidney failure
   requiring CVVH.  His primary limiting condition now is his
   encephalopathy (likely anoxic).  Neurology will reassess at 7 days (on
   Tuesday) regarding the underlying brain function and potential for
   recovery.  Our plan is outlined above and involves continued treatment
   of his acute renal failure and ventilatory dependence.  We will give
   him sedation to limit his movement.  This plan was communicated with
   the patient
s wife, son, daughter and two sisters.  [**Name (NI) **] questions were
   addressed.
   [**First Name11 (Name Pattern1) 3051**] [**Last Name (NamePattern1) 6128**], MD cell [**Telephone/Fax (1) 6129**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2160-5-11**] 15:25 ------

2160-05-12 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -d/c'd vanc/zosyn, cont'd [** 4075**]
   -d/c'd phoslo
   -propofol cont'd for pt/family comfort
   -per renal goal volume balance -50 cc/hr when off dopa
   -HoTN (MAP 50's) limited weaning dopamine, decr. CVVH to keep even O/N
   -[**1-13**] blood Cx G+ rods - didn't broaden [**Month/Day (4) **] given likely contaminant
   -family mtg planned for [**5-13**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-5-10**] 01:48 PM
   Piperacillin - [**2160-5-11**] 09:53 AM
   Ciprofloxacin - [**2160-5-11**] 12:00 PM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Intubated
   Flowsheet Data as of  [**2160-5-12**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 86 (67 - 88) bpm
   BP: 93/49(61) {79/37(1) - 129/59(78)} mmHg
   RR: 17 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.5 kg (admission): 100 kg
   Height: 67 Inch
             Total In:
                                                                  4,209 mL
                                                                  1,036 mL
   PO:
             TF:
                                                                    764 mL
                                                                    186 mL
   IVF:
                                                                  3,445 mL
                                                                    850 mL
   Blood products:
   Total out:
                                                                  5,445 mL
                                                                  1,029 mL
   Urine:
                                                                    650 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,236 mL
                                                                      7 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 850 (283 - 850) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 98%
   ABG: 7.38///20/
   Ve: 17 L/min
   Physical Examination
   GEN: Intubated, comatose
   HEENT: pupils equal and reactive 4->2
   NECK: C-collar in place
   CV: reg rate nl S1S2 no m/r/g
   PULM: diminished throughout, no w/r/r
   ABD: soft nondist normoactive bowel sounds
   EXT: warm, dry 1+ pitting edema to mid-calves, PT palpable bilat, DP
   palpable on right, +dop on right, sluggish cap refill
   NEURO: no purposeful movements, toes upgoing bilat
   Labs / Radiology
   160 K/uL
   10.4 g/dL
   258 mg/dL
   3.4 mg/dL
   20 mEq/L
   4.5 mEq/L
   49 mg/dL
   102 mEq/L
   135 mEq/L
   35.1 %
   12.7 K/uL
        [image002.jpg]
                             [**2160-5-10**]  06:16 PM
                             [**2160-5-10**]  06:41 PM
                             [**2160-5-11**]  12:50 AM
                             [**2160-5-11**]  04:41 AM
                             [**2160-5-11**]  04:51 AM
                             [**2160-5-11**]  08:54 AM
                             [**2160-5-11**]  02:45 PM
                             [**2160-5-11**]  05:00 PM
                             [**2160-5-11**]  10:06 PM
                             [**2160-5-12**]  05:14 AM
   WBC
   11.1
   12.7
   Hct
   30.9
   35.1
   Plt
   153
   160
   Cr
   7.4
   5.7
   4.7
   4.0
   3.4
   TCO2
   29
   25
   25
   Glucose
   235
   214
   221
   195
   258
   Other labs: PT / PTT / INR:13.6/35.4
 pending/1.2,
   Ca++:7.6 mg/dL, Mg++:2.6 mg/dL, PO4:3.0 mg/dL
   MICRO:
[**5-10**] - Sputum: - ? OROPHARYNGEAL FLORA.
 PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH. ? OF TWO COLONIAL MORPHOLOGIES.
[**5-8**] -RESPIRATORY CULTURE (Final [**2160-5-10**]):  (BAL is same)
      MODERATE GROWTH OROPHARYNGEAL FLORA.
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
      MORAXELLA CATARRHALIS.    MODERATE GROWTH.
[**5-9**] & [**5-10**] - blood cx
 GP rods [**1-13**]
   Assessment and Plan
   62 M w/ CAD, CKD, DM admitted with cardiac arrest, cardiogenic shock
   and MSOF.
   .
   #Cardiac arrest
 pulseless VT/VF likely [**2-11**] hyperkalemia in the
   setting of ACEi therapy; no further episodes of dysrhythmia since ROSC
   and initiation of amio therapy
   -cont amio 400 [**Hospital1 **] x 8 doses -> 200 mg [**Hospital1 **]
   .
   #Hypoxic respiratory failure
 stable; O2 requirements improved with
   suctioning of secretions, hypoxic vasoconstriction in atelectactic
   lung, diuresis; multifactorial process [**2-11**]
   infection->secretions/collapse, mild volume overload.  PE low
   probability, but patient on anticoagulation for AK of LV.
   -wean PEEP as tolerated hemodynamically
   -volume [**Name6 (MD) 1959**] with RRT
   -[**Name (NI) **] for PNA
   .
   #Acute systolic CHF - TTE shows severe regional systolic dysfunction
   (EF 20%) in prox LAD distribution w/ anterior, septal and apical
   akinesis
   -wean dopamine as tolerated to maintain MAP>65
   -prophylactic heparin gtt for akinesis
   .
   # VAP
 pan-[**Last Name (un) 46**]. Pseudomonas, moraxella from sputum/BAL Cx
   -cont [**Last Name (LF) 4075**], [**First Name3 (LF) **] d/c vanc/zosyn
   -monitor for clinical evidence of infection given that we are narrowing
   [**First Name3 (LF) 1679**]
   .
   #Anoxic encephalopathy
 neuro status stable
   -appreciate close neuro f/u
   -monitor neuro exam, re-eval prognosis on hosp day 7 ([**5-13**])
   -plan for family meeting tomorrow with neurology if possible.
   -cont low dose Propofol to limit pt posturing
   .
   #ARF
 started citrate CVVH [**5-10**]
   -appreciate close renal f/u
   -monitor iCa, replete prn
   .
   #Pancreatitis
 presumed [**2-11**] shock; lipase trending down; remains
   hypervolemic
   -cont [**Month/Day (2) 1959**] volume status per above issues
   .
   #CAD: LAD and RCA occlusions appeared to be old
   -cont ASA
   -cont carvedilol 3.125mg [**Hospital1 **]
   -no statin given elevation in LFT
s and very limited benefit
   .
   #DM
   -HISS
   # PPX: SQH, PPI
   # Code: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2160-5-7**] 09:00 AM
   20 Gauge - [**2160-5-10**] 12:49 PM
   Dialysis Catheter - [**2160-5-10**] 08:00 PM
   Prophylaxis:
   DVT: Hep sq
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have reviewed the above progress note on [**2160-5-12**] at 09:14 AM by
   Dr. [**First Name (STitle) **] and have reviewed the history with the patient
s wife,
   daughter, and sisters.  The physical examination noted above is
   consistent with my own today.  I concur with the assessment and
   treatment plan as outline above.   Mr. [**Known lastname 6050**] presented 6 days ago
   with a prolonged cardiac arrest due to pulseless ventricular
   tachycardia and ventricular fibrillation requiring multiple
   cardioversions.  He developed acute respiratory failure requiring
   intubation.  His primary limiting condition now is his anoxic
   encephalopathy.  Neurology will reassess at 7 days (on Tuesday)
   regarding the underlying brain function and potential for recovery.
   There has been no change in his neurologic status over the past 24
   hours.  Our plan is outlined above and we will provide sedation to
   limit his movement.  This plan was communicated with the patient
   wife, son, daughter and two sisters.  [**Name (NI) **] questions were addressed.
   [**First Name11 (Name Pattern1) 3051**] [**Last Name (NamePattern1) 6128**], MD cell [**Telephone/Fax (1) 6129**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2160-5-12**] 21:03 ------